US07935699B2
Hydrazine hydrate (10 equiv.) is placed in a three neck flask fitted with an overhead mechanical stirrer and a reflux condenser and cooled in a dry ice acetone bath at −78° C. After the solution reached −50° C. the bath is removed and (3-chloro-4-cyclopentylsulfanyl-phenyl)-oxo-acetic acid (15.00 mmol) is added in one portion. It is then heated in an oil bath to 80° C. After the reaction is at 80° C. it is treated with potassium hydroxide (0.60 equiv.) and stirred vigorously. When the reaction returns to 80° C. a second portion of potassium hydroxide (0.60 equiv.) is added and allowed to cool back to 80° C. This cycle is repeated two more times adding potassium hydroxide (0.60 equiv.) each time. The reaction is then heated at 100° C. for 16 h. It is then cooled to 25° C. and water (3 mL) added to the reaction. It was then transferred to a separatory funnel and another portion of water (3 mL) is added and diethyl ether (10 mL). The layers are separated and the aqueous layer separated into a flask. The organic layer is then extracted with water (5 mL) and this aqueous layer combined with the first. To the aqueous layer is then added heptane (5 mL) and stirred vigorously. This solution is cooled to 0° C. in an ice bath and is treated dropwise with concentrated hydrochloric acid (˜7 mL) over 30 min until the aqueous layer is at pH=2 keeping the temperature of the solution below 50° C. during the addition process. It is then allowed to cool to 25° C. and stirred for 3 h. It is then filtered to remove the solids and the solids are washed with 1N aqueous hydrochloric acid (1.5 mL), water (2×1.5 mL), heptane (5 mL) and 1:1 heptane:diethyl ether (5 mL) and the solid is then dried in a vacuum oven to afford (3-chloro-4-cyclopentylsulfanyl-phenyl)-acetic acid.

reactant | Hydrazine hydrate | 10 equiv. | O.NN
reactant | (3-chloro-4-cyclopentylsulfanyl-phenyl)-oxo-acetic acid | 15.00 mmol | ClC=1C=C(C=CC1SC1CCCC1)C(C(=O)O)=O | C13H13ClO3S
reactant | potassium hydroxide | 0.60 equiv. | [OH-].[K+]
reactant | potassium hydroxide | 0.60 equiv. | [OH-].[K+]
reactant | potassium hydroxide | 0.60 equiv. | [OH-].[K+]
reactant | water | 3 mL | O | H2O
reactant | water | 3 mL | O | H2O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (3-chloro-4-cyclopentylsulfanyl-phenyl)-acetic acid | ClC=1C=C(C=CC1SC1CCCC1)CC(=O)O | C13H15ClO2S
